US04709000
0.2 percent butandiol dimethacrylate
is polymerized according to Example 6 using lauroyl peroxide and benzoyl peroxide as initiators directly to form a sheet of 1.5 mm thickness.

reactant | lauroyl peroxide | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | butandiol dimethacrylate | C(C(=C)C)(=O)OC(CCC)OC(C(=C)C)=O | C12H18O4
